US06274120B1
a) Methylene bis(16-hexadecanoyloxyhexadecanoate)
A mixture of methylene bis(16-hydroxyhexadecanoate) (1.0 mmol) and palmitoyl chloride (7.0 mmol) was refluxed in diethyl ether (10 ml) for 24 hours before the solvent was evaporated. The residual material was purified on a silica gel flash column eluting first with hexane/chloroform (2:1) and then with chloroform. Yield 88%, white solid. 1H NMR (CDCl3): δ 0.88 (6 H, t, J 6.7 Hz), 1.2-1.4 (92 H, m), 1.5-1.7 (12 H, m), 2.28 (4 H, t, J 7.5 Hz), 2.35 (4 H, t, J 7.6 Hz), 4.05 (4 H, t, J 6.7 Hz), 5.75 (2 H, s). 13C NMR (CDCl3): δ 14.11, 22.70, 24.64, 25.06, 25.97, 28.70, 29.04, 29.19, 29.25, 29.29, 29.38, 29.47, 29.50, 29.56, 29.62, 29.67, 29.70, 29.71, 31.94, 34.00, 34.43, 64.39, 79.06, 172.59, 173.97.

reactant | methylene bis(16-hydroxyhexadecanoate) | 1.0 mmol | OCCCCCCCCCCCCCCCC(=O)OCOC(CCCCCCCCCCCCCCCO)=O | C33H64O6
reactant | palmitoyl chloride | 7.0 mmol | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | Methylene bis(16-hexadecanoyloxyhexadecanoate) | Yield 88% | C(CCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCC(=O)OCOC(CCCCCCCCCCCCCCCOC(CCCCCCCCCCCCCCC)=O)=O | C65H124O8
